US06407122B1
(+) 1-(2-Amino-benzothiazol-6-yl)-3-phenoxy-2-(4-benzyl-piperidin-1-yl) -propan-1-one
After stirring for 20 min., a solution of 3 g of (±) threo 1-phenoxymethyl-1-(4-benzylpiperidin-1-yl)-2-hydroxy-2-(2-aminobenzothiazol-6-yl)-ethane in 30 ml of dichloromethane was slowly added dropwise and the resulting cloudy solution was stirred for 20 min.

reactant | 1-phenoxymethyl-1-(4-benzylpiperidin-1-yl)-2-hydroxy-2-(2-aminobenzothiazol-6-yl)-ethane | O(C1=CC=CC=C1)CC(C(C1=CC2=C(N=C(S2)N)C=C1)O)N1CCC(CC1)CC1=CC=CC=C1 | C28H31N3O2S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (+) 1-(2-Amino-benzothiazol-6-yl)-3-phenoxy-2-(4-benzyl-piperidin-1-yl) -propan-1-one | NC=1SC2=C(N1)C=CC(=C2)C(C(COC2=CC=CC=C2)N2CCC(CC2)CC2=CC=CC=C2)=O | C28H29N3O2S
